US08211892B2
1 g of 4-(4-bromophenyl)piperidin-4-ol is placed in 20 ml of dichloromethane. 0.65 ml of triethylamine and then 0.33 ml of methanesulphonyl chloride are added. The reaction mixture is stirred at ambient temperature for 2 h. It is washed with water and then with a saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulphate and then evaporated under reduced pressure. The crude product obtained is chromatographed on silica gel, elution being carried out with a dichloromethane/methanol (99/1) solvent mixture. 1.1 g of 4-(4-bromophenyl)-1-(methanesulphonyl)piperidin-4-ol are obtained.

reactant | 4-(4-bromophenyl)piperidin-4-ol | 1 g | BrC1=CC=C(C=C1)C1(CCNCC1)O | C11H14BrNO
reactant | triethylamine | 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.33 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(4-bromophenyl)-1-(methanesulphonyl)piperidin-4-ol | 1.1 g | BrC1=CC=C(C=C1)C1(CCN(CC1)S(=O)(=O)C)O | C12H16BrNO3S
